US07335658B2
6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 11, making variations only as required to use 5-fluoro-2-trifluoromethylbenzyl chloride in place of 2-trifluoromethylbenzyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (40% yield). 1H NMR (300 MHz, CDCl3) δ 7.95-8.01, 7.57-7.68, 7.04, 6.95, 3.79, 3.71, 3.56, 2.64, 1.51, 0.68-0.82, 0.43-0.51, 0.06-0.13. MS (ES+) m/z 452 (M+1).

reactant | 5-fluoro-2-trifluoromethylbenzyl chloride | FC=1C=CC(=C(CCl)C1)C(F)(F)F | C8H5ClF4
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)CC1=C(C=CC(=C1)F)C(F)(F)F | C22H25F4N5O
